US05248782
2-(Pyrrol-2-yl)benzimidazole
A mixture of 1.08 g (10 mmol) of o-phenylenediamine and 20 g of polyophosphate esters was heated gently at 80° C. and was added portionwise 1.11 g (10 mmol) of pyrrole-2-carboxylic acid. After the mixture was stirred at 100° C. for 30 minutes, it was poured into a saturated solution of sodium bicarbonate (500 mL) and stirred until polyphosphate esters was decomposed. It was then extracted with two 400 mL portions of ethyl acetate. the separated organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a crude product. After purification by column chromatography on silica gel with 30% ethyl acetate in hexane, the desired product, 2-(pyrrol-2-yl)benzimidazole (0.50 g, 25%) was obtained as a pale yellow solid, m.p. 250° C.; 1H-NMR (Acetone-d6) 6.25-6.27 (m, 1H, ArH), 6.90-6.92 (m, 1H, ArH), 7.02-7.03 (m, 1H, ArH), 7.14-7.19 (m, 2H, 2xArH), 7.52 (bs, 2H, 2xArH).

reactant | o-phenylenediamine | 10 mmol, 1.08 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | pyrrole-2-carboxylic acid | 10 mmol, 1.11 g | N1C(=CC=C1)C(=O)O | C5H5NO2
solvent | sodium bicarbonate | 500 mL | C([O-])(O)=O.[Na+]
product | 2-(pyrrol-2-yl)benzimidazole | 0.50 g, 25% | N1C(=CC=C1)C=1NC2=C(N1)C=CC=C2 | C11H9N3
